US20010007903A1
Under nitrogen atmosphere, 10.0 ml of triethylamine (72.6 m mol) and 4.1 ml of methanesulfonyl chloride (53 m mol) was added successively to a solution of 6.27 g of 5-hydroxymethyl-4-methyl-1,2,3-thiadiazole (48.16 m mol) in dichloromethane (50 ml) at −30° C. After stirring for 30 minutes, the mixture was poured into water-dichloromethane while the pH was kept between 8.5-9.0. The organic layer was separated and washed with saturated sodium hydrogencarbonate, dil-hydrochloric acid and brine, dried over magnesium sulfate. After filtration, the filtrate was concentrated in vacuo to afford 5-methanesulfonyloxymethyl-4-methyl-1,2,3-thiadiazol (9.8 g).

reactant | triethylamine | 10.0 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-hydroxymethyl-4-methyl-1,2,3-thiadiazole | 6.27 g | OCC1=C(N=NS1)C | C4H6N2OS
reactant | water dichloromethane | O.ClCCl
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-methanesulfonyloxymethyl-4-methyl-1,2,3-thiadiazol | 9.8 g | CS(=O)(=O)OCC1=C(N=NS1)C | C5H8N2O3S2
